US07202364B2
A mixture of 4-bromo-2-chloro-3,5-difluoroaniline (5.35 g, 22.0 mmol), cyclopropylboronic acid (2.20 g, 24.0 mmol), K3PO4 (16 g, 78 mmol) and tricyclohexyl phosphine (0.623 g, 2.24 mmol) in toluene (30 mL) and water (8 mL) is degassed with N2 and heated to 100° C. Pd(OAc)2 (0.25 g, 1.16 mmol) is added. The reaction mixture is heated to 100° C. overnight, cooled and loaded directly on a column of silica gel. The residue is purified by column chromatography (EtOAc/hexanes) to give 4-cyclopropyl-3,5-difluoro-2-chloroaniline.

reactant | 4-bromo-2-chloro-3,5-difluoroaniline | 22.0 mmol, 5.35 g | BrC1=C(C(=C(N)C=C1F)Cl)F | C6H3BrClF2N
reactant | cyclopropylboronic acid | 24.0 mmol, 2.20 g | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 78 mmol, 16 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexyl phosphine | 2.24 mmol, 0.623 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 8 mL | O | H2O
catalyst | Pd(OAc)2 | 1.16 mmol, 0.25 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-cyclopropyl-3,5-difluoro-2-chloroaniline | C1(CC1)C1=C(C(=C(N)C=C1F)Cl)F | C9H8ClF2N
